US08309580B2
3-{[4-({cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methyl}amino)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-({cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methyl}amino)benzoic acid (511 mg) as well as ethyl 3-(methylamino)propanoate (197 mg) to give the title compound (464 mg, 76%) as an amorphous compound.

reactant | 4-({cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methyl}amino)benzoic acid | 511 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=C(C=C(C=C1)F)F)C)NC1=CC=C(C(=O)O)C=C1 | C25H25F2NO3
reactant | ethyl 3-(methylamino)propanoate | 197 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-({cyclohexyl[5-(2,4-difluorophenyl)-2-methyl-3-furyl]methyl}amino)benzoyl](methyl)amino}propanoic acid | 464 mg, 76% | C1(CCCCC1)C(C1=C(OC(=C1)C1=C(C=C(C=C1)F)F)C)NC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1 | C29H32F2N2O4
